US08629137B2
6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one
0.35 g (8.0 mmol) sodium hydride (55%, suspension in mineral oil) were added to 2.2 g (7.6 mmol) of 6-(6-chloropyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one in 10 mL N,N′-dimethylformamide. The reaction mixture was stirred for 30 min at RT. Then 0.95 mL (15.0 mmol) iodomethane were added and the mixture was stirred for 1 h at RT. The reaction mixture was combined with ice water, the aqueous phase was extracted several times with EtOAc. The combined organic phases were dried on sodium sulphate, filtered and concentrated to dryness by rotary evaporation. The residue was triturated with diethyl ether, suction filtered and dried.

reactant | sodium hydride | 8.0 mmol, 0.35 g | [H-].[Na+]
reactant | 6-(6-chloropyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 7.6 mmol, 2.2 g | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C13H8ClN3O3
reactant | iodomethane | 15.0 mmol, 0.95 mL | IC | CH3I
solvent | N,N′-dimethylformamide | 10 mL | CN(C)C=O | C3H7NO
product | 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C14H10ClN3O3
